US09145415B2
To a solution of 5-(5-amino-1-pentyn-1-yl)-2-chloro-N-propylpyrimidin-4-amine (K2, 510 mg), N-Boc-N-methyl-L-alanine (493 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.16 g) and 1-hydroxybenzotriazole monohydrate (930 mg) in N,N-dimethylformamide (10 mL), N,N-diisopropylethylamine (690 μL) was added at room temperature, and the mixture was stirred at the same temperature for 12 hours. To the reaction mixture, water and ethyl acetate were added. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 70 to 40% hexane in ethyl acetate) to obtain (S)-tert-butyl (1-((5-(2-((1H-benzo[d][1,2,3]triazol-1-yl)oxy)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)(methyl)carbamate (K3, 380 mg).

reactant | 5-(5-amino-1-pentyn-1-yl)-2-chloro-N-propylpyrimidin-4-amine | 510 mg | NCCCC#CC=1C(=NC(=NC1)Cl)NCCC | C12H17ClN4
reactant | N-Boc-N-methyl-L-alanine | 493 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.16 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 930 mg | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-diisopropylethylamine | 690 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (S)-tert-butyl (1-((5-(2-((1H-benzo[d][1,2,3]triazol-1-yl)oxy)-4-(propylamino)pyrimidin-5-yl)-4-pentyn-1-yl)amino)-1-oxopropan-2-yl)(methyl)carbamate | 380 mg | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)NCCC)C#CCCCNC([C@H](C)N(C(OC(C)(C)C)=O)C)=O | C27H36N8O4
